### PR TITLE
chore: adaptations for nightly-2024-05-14

### PR DESCRIPTION
**Pull request by kim-em**
The main underlying change here is leanprover/lean4#4119, which fixed a number of typeclass search bugs. In particular, it fixed a caching bug (the `synthPendingDepth` was being ignored during caching, resulting in both false positive and false negatives). For the false positives (i.e. things that synthesis was finding that it really shouldn't have been!), we've had to introduce `set_option maxSynthPendingDepth 2 in` in places. These are all explained with `#adaptation_notes`.

There's also leanprover/lean4#4061, which makes well-founded definitions irreducible by default. This helps avoid some horrible run-away unfoldings, and was surprisingly un-painful to Mathlib to (credit to @nomeata for discovering this!) There are some minor adaptations still required, however.

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
lgtm

File: Mathlib/Analysis/Calculus/ContDiff/Defs.lean [hunk 1]
```diff
@@ -381,16 +397,19 @@ theorem hasFTaylorSeriesUpToOn_succ_iff_right {n : ℕ} :
...
+          change
           (p x (Nat.succ (Nat.succ m))) (cons y v) =
             (p x m.succ.succ) (snoc (cons y (init v)) (v (last _)))
-        rw [← cons_snoc_eq_snoc_cons, snoc_init_self]
+          rw [← cons_snoc_eq_snoc_cons, snoc_init_self]
+        rw [eq]
+        have :
+          HasFDerivWithinAt ((continuousMultilinearCurryRightEquiv' 𝕜 m E F).symm ∘ (p · m.succ))
+            ((p x).shift m.succ).curryLeft s x := by apply Htaylor.fderivWithin _ A x hx
+        rwa [LinearIsometryEquiv.comp_hasFDerivWithinAt_iff'] at this
```
Comment (kbuzzard) [inline Mathlib/Analysis/Calculus/ContDiff/Defs.lean:412]: Is this change (adding three lines of code) preferable to just adding `set_option maxSynthPendingDepth 2 in` above the theorem? On my machine, the maxSynthPendingDepth 2 option in conjunction with switching the profiler on uses 51K heartbeats and 1.9 seconds, whereas the fix in this PR uses 78K heartbeats and 2.8 seconds. Should `set_option maxSynthPendingDepth 2` be thought of as a code smell?

File: Mathlib/LinearAlgebra/Semisimple.lean [hunk 2]
```diff
@@ -156,7 +156,12 @@ theorem IsSemisimple.of_mem_adjoin_pair {a : End K M} (ha : a ∈ Algebra.adjoin
   let S := AdjoinRoot ((minpoly K g).map <| algebraMap K R)
   have : Finite K R := (AdjoinRoot.powerBasis' <| minpoly.monic <| isIntegral f).finite
   have : Finite R S := (AdjoinRoot.powerBasis' <| (minpoly.monic <| isIntegral g).map _).finite
-  have : IsScalarTower K R S := .of_algebraMap_eq fun _ ↦ rfl
+  #adaptation_note
+  /--
+  After https://github.com/leanprover/lean4/pull/4119 we either need
+  to specify the `(S := R)` argument, or use `set_option maxSynthPendingDepth 2 in`.
+  -/
+  have : IsScalarTower K R S := .of_algebraMap_eq (S := R) fun _ ↦ rfl
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/Semisimple.lean:164]: Using `set_option maxSynthPendingDepth 2 in` instead would make this proof 25% quicker (125K heartbeats instead of the current 166K).

**Comment by mattrobball** [comment]
bors delegate+

File: Mathlib/LinearAlgebra/Semisimple.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/LinearAlgebra/Semisimple.lean]: Using set_option now.

File: Mathlib/Analysis/Calculus/ContDiff/Defs.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Analysis/Calculus/ContDiff/Defs.lean]: Using set_option.

**Comment by semorrison** [comment]
bors merge
